US07915443B2
(S)-N-[{2-[(2-hydroxyethyl)(methyl)amino]-2-oxoethyl}(oxo)phenyl-λ6-sulfanylidene]-5-[(3-hydroxyphenyl)ethynyl]nicotinamide
In a manner similar to that described for Example 471, (S)-Ethyl[N-({5-[(3-hydroxyphenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]acetate (65 mg, 0.14 mmol) and 2-(methylamino)ethanol (0.1 mL, 1.2 mmol) were reacted to give the title as clear oil (42 mg, 61%).

reactant | (S)-Ethyl[N-({5-[(3-hydroxyphenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]acetate | 0.14 mmol, 65 mg | C(C)[C@@H](C(=O)[O-])S(=O)(=NC(=O)C=1C=NC=C(C1)C#CC1=CC(=CC=C1)O)C1=CC=CC=C1
reactant | 2-(methylamino)ethanol | 1.2 mmol, 0.1 mL | CNCCO | C3H9NO
product | (S)-N-[{2-[(2-hydroxyethyl)(methyl)amino]-2-oxoethyl}(oxo)phenyl-λ6-sulfanylidene]-5-[(3-hydroxyphenyl)ethynyl]nicotinamide | 42 mg, 61% | OCCN(C(C[S@@](=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)O)=O)(C1=CC=CC=C1)=O)=O)C | C25H23N3O5S
